US08026257B2
7-(((1-Methyl-4-phenylpiperidin-4-yl) methoxy) methyl)-5-(trifluoromethyl)-1H-indazole.
To a solution of 7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole (62 mg, 0.159 mmol) and sodium cyanoborohydride (10 mg, 0.159 mmol) in acetonitrile (1 mL) at room temperature was added formalin (25 μL). To this was added 1 drop of acetic acid. After 5 min, a second drop of acetic acid was added and the reaction stirred at room temperature for 15 min. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was washed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated. The product was purified by preparative HPLC. The trifluoroacetic acid salt was loaded onto a strong cation exchange cartridge in methanol. The cartridge was washed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 37 mg (58%). 1H-NMR (CDCl3, 500 MHz) δ 9.60 (bs, 1H), 8.02 (s, 1H), 7.91 (s, 1H), 7.49 (m, 2H), 7.41 (m, 3H), 7.25 (s, 1H), 4.71 (s, 2H), 3.61 (s, 2H), 2.57 (m, 2H), 2.10-2.40 (m, 4H), 2.22 (s, 3H), 1.96 (m, 2H); 13C-NMR (CDCl3, 126 MHz) δ 143.9, 139.5, 135.2, 129.0, 127.1, 126.9, 124.7 (q, J=272 Hz), 123.2 (q, J=32 Hz), 121.9, 120.1, 118.3, 80.8, 72.0, 52.0, 46.3, 40.7, 32.9. Mass spec.: 404.01 (MH)+. Accurate mass spec.: m/z [MH]+, Δ=4.4 ppm.

reactant | 7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole | 0.159 mmol, 62 mg | C1(=CC=CC=C1)C1(CCNCC1)COCC=1C=C(C=C2C=NNC12)C(F)(F)F | C21H22F3N3O
reactant | sodium cyanoborohydride | 0.159 mmol, 10 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 25 μL | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 7-(((1-Methyl-4-phenylpiperidin-4-yl) methoxy) methyl)-5-(trifluoromethyl)-1H-indazole | CN1CCC(CC1)(C1=CC=CC=C1)COCC=1C=C(C=C2C=NNC12)C(F)(F)F | C22H24F3N3O
